US04855291
A mixture of ethyl 6,7-dimethoxy-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (4.0 g) and ethanol saturated with ammonia (200 ml) was heated at 100° in a stainless steel pressure vessel for 20 hours, then cooled to ambient temperature. The mixture was evaporated and the residue purified by high pressure liquid chromatography on silica using dichloromethane IMS 96.5:3.5 as the eluent. The resulting product was recrystallised from IMS to give the novel compound 6,7-dimethoxy-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide, m.p. 323°-325° (dec).

reactant | ethyl 6,7-dimethoxy-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 4.0 g | COC=1C=C2C(C(=CN(C2=CC1OC)C)C(=O)OCC)=O | C15H17NO5
reactant | ammonia | 200 ml | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 6,7-dimethoxy-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide | COC=1C=C2C(C(=CN(C2=CC1OC)C)C(=O)N)=O | C13H14N2O4
